US06340757B1
To a solution in which 2.09 g of ethyl 4-fluoro-2-methyl-3-oxopentanoate had been dissolved in 20 ml of methanol were added 4.59 g of a 28 % sodium methoxide methanol solution and 1.61 g of formamidine acetate, and the mixture was stirred under reflux (64° C.) for 3 hours. Then, the reaction mixture was cooled to 10° C. or lower, 2.5 g of conc. hydrochloric acid was added to the mixture and the resulting mixture was concentrated under reduced pressure. To the concentrated solution was added 50 ml of acetone, and the mixture was stirred at 60° C. for 10 minutes, and then insolubles were removed by filtration. The filtrate was concentrated under reduced pressure, and the concentrated solution was recrystallized from 10 ml of acetone to obtain 1.10 g of 6-(1-fluoroethyl)-5-methyl-4-pyrimidone (isolated yield: 59.2%).

reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | formamidine acetate | 1.61 g | C(C)(=O)O.C(=N)N
reactant | hydrochloric acid | 2.5 g | Cl | ClH
reactant | ethyl 4-fluoro-2-methyl-3-oxopentanoate | 2.09 g | FC(C(C(C(=O)OCC)C)=O)C | C8H13FO3
solvent | methanol | 20 ml | CO | CH4O
product | 6-(1-fluoroethyl)-5-methyl-4-pyrimidone | 1.10 g, yield: 59.2% | FC(C)C1=C(C(NC=N1)=O)C | C7H9FN2O
